US04962253
In this experiment propylene is charged into a reactor containing an ethylenation reaction mixture that has been allowed to run long enough to demonstrate catalytic activity similar to what is observed in the ethylenation reaction catalyzed by (CH3)5CpRh(CO)2This procedure is followed because it is feared that propylene might be so much less reactive than ethylene that even small inhibiting influences might interfere with the detection of propenylanisole. Thus, an ethylenation reaction is set up as follows: the sealed autoclave containing a glass liner that has been oven dried is purged with argon. A 10-ml anisole solution of 147 mg (0.5 mmole) of the Rh catalyst is introduced by syringe through a dip tube capped with a rubber septum. Another 50 ml of anisole is added the same way. After purging with argon again, the reactor is pressurized with ethylene to 500 psig at room temperature. The temperature is raised to 180° C. (at 680 psig) and, over a four-hour period, both GLC-mass spectral analysis and the change of color from red to yellow reveal the conversion of the initially charged dicarbonyl rhodium complex to (CH3)5CpRh(C2H4)2. After an additional 16 hours at 175° C., a small amount of m-vinylanisole is detected. An additional 2 hours at 190° C. results in considerably more rapid production of m-vinylanisole. At this point the reactor is cooled then vented then charged with propylene. After 1.5 turnovers, the selectivity to m-vinylanisole is 85 percent. Samples from this point on are deep blue in color. The temperature is raised to 200° C. (at 330 psig) over a two-hour period and held there for an additional 2 hours. GLC-mass spectral analysis indicates the production of small amounts of propenylanisole. The temperature is raised again to 210° C. and held there 21 hours then to 220° C. for an additional 16 hours. During this time GLC and GLC-mass spectral analysis indicate the production of about 100 mg of a mixture of two isomers of propenylanisole.

reactant | propylene | C=CC | C3H6
reactant | ethylene | C=C | C2H4
reactant | propenylanisole | C(=CC)C1=C(C=CC=C1)OC | C10H12O
solvent | anisole | 50 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | anisole | 10-ml | C1(=CC=CC=C1)OC | C7H8O
product | m-vinylanisole | C(=C)C=1C=C(C=CC1)OC | C9H10O
